US06306860B1
2-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]-5-[N-(2-hydroxyethyl)carbamoyl]pyridine
By the same procedure as described in the example 2, synthesis was carried out starting with 6-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid methyl ester and using ethanolamine. And then, the product was recrystallized with ethanol and hexane to give a desired compound.

reactant | 6-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid methyl ester | COC(C1=CN=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NCC)=O | C19H23N5O3
reactant | ethanolamine | C(O)CN | C2H7NO
product | 2-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]-5-[N-(2-hydroxyethyl)carbamoyl]pyridine | Yield: 73% | C(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=NC=C(C=C1)C(NCCO)=O | C20H26N6O3
